US03946078
110 ml of a solution of 30 % H2O2 followed by 28 ml of a 6N aqueous solution of NaOH were added dropwise, while stirring and within 45 minutes and 15 minutes, respectively, to a cooled solution (0°-5°) of 40 g of β-cyclocitral (0.26 mole) in 300 ml of methanol which had been acidified beforehand with 40 drops of concentrated sulphuric acid. The reaction mixture was then kept at room temperature for 3 days, while stirring. After having added water thereto, the said mixture was extracted three times with ether and the combined organic extracts were subjected to the usual treatments of washing (water), drying (MgSO4) and concentration. There were obtained 21.5 g of trimethyl-cyclohexanone by fractional distillation; b.p. 66°-69°/12 Torr (66 %).

reactant | H2O2 | OO | H2O2
reactant | NaOH | [OH-].[Na+]
reactant | β-cyclocitral | 0.26 mole, 40 g | CC1=C(C(CCC1)(C)C)C=O | C10H16O
reactant | water | O | H2O
solvent | methanol | 300 ml | CO | CH4O
catalyst | sulphuric acid | 40 drops | S(O)(O)(=O)=O | H2O4S
product | trimethyl-cyclohexanone | 21.5 g | CC1C(C(CCC1)=O)(C)C | C9H16O
